US09085583B2
(±)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-(1-(4-fluorophenyl)ethyl)-2-methyl-1H-indole-3-carboxamide (Compound 166)
N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1H-indole-3-carboxamide (309 mg, 1.0 mmol) was dissolved in 4 mL DMF, NaH (80 mg, 2.0 mmol) was added, the mixture was stirred at room temperature for 30 min, and then 1-(1-bromoethyl)-4-fluorobenzene (0.404 mg, 2.0 mmol) was added. The mixture was stirred at room temperature overnight and was directly purified by reverse phase HPLC (A:CH3CN, B:water+0.1% HCl. A:B=35:65 ASB C18 150*25 mm) to afford the title compound as a white solid (11 mg, yield 3%). LCMS 432 (M+H+) 1H NMR (400 MHz, CDCl3) δ 7.78 (d, J=8 Hz, 1H), 7.33 (m, 1H), 7.14 (s, 1H), 6.96 (m, 2H), 6.92 (m, 1H), 6.85-6.92 (m, 4H), 5.85 (s, 1H), 5.72 (m, 1H), 4.56 (s, 2H), 2.64 (s, 3H), 2.37 (s, 3H), 2.11 (s, 3H), 1.85 (d, J=7.2 Hz, 3H).

reactant | N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1H-indole-3-carboxamide | 1.0 mmol, 309 mg | CC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(NC2=CC=CC=C12)C | C18H19N3O2
reactant | NaH | 2.0 mmol, 80 mg | [H-].[Na+]
reactant | 1-(1-bromoethyl)-4-fluorobenzene | 2.0 mmol, 0.404 mg | BrC(C)C1=CC=C(C=C1)F | C8H8BrF
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (±)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-(1-(4-fluorophenyl)ethyl)-2-methyl-1H-indole-3-carboxamide | 11 mg, yield 3% | CC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(N(C2=CC=CC=C12)C(C)C1=CC=C(C=C1)F)C | C26H26FN3O2
